US07772221B2
Step AE (1): To a solution of (1R,2S)-1-amino-6-methoxy-2,3-dihydro-1H-inden-2-ol (500 mg) [E. N. Jacobsen, et. al Organic Synthesis 1999, 76, 46-56] in methanol (10 mL) was added ethyl trifluoroacetate (0.83 mL) followed by triethylamine (0.65 mL), and the reaction mixture was stirred at rt for 12 h. The solvents were removed in vacuo to give 2,2,2-trifluoro-N-((1R,2S)-2-hydroxy-6-methoxy-2,3-dihydro-1H-inden-1-yl)acetamide as an oil. HPLC retention time: 1.77 min (method B). MS (ESI) (M+Na)+ 298.13.

reactant | (1R,2S)-1-amino-6-methoxy-2,3-dihydro-1H-inden-2-ol | 500 mg | N[C@H]1[C@H](CC2=CC=C(C=C12)OC)O | C10H13NO2
reactant | ethyl trifluoroacetate | 0.83 mL | FC(C(=O)OCC)(F)F | C4H5F3O2
reactant | triethylamine | 0.65 mL | C(C)N(CC)CC | C6H15N
solvent | methanol | 10 mL | CO | CH4O
product | 2,2,2-trifluoro-N-((1R,2S)-2-hydroxy-6-methoxy-2,3-dihydro-1H-inden-1-yl)acetamide | FC(C(=O)N[C@H]1[C@H](CC2=CC=C(C=C12)OC)O)(F)F | C12H12F3NO3
